US06545159B2
Methyltriphenylphophonium bromide (25 g, 0.07 mol), sodium hydride (NaH, 3.36 g, 0.14 mol), and toluene (100 ml) were placed into 250 ml of 2-necked round-bottomed flask under N2. The reaction mixture was refluxed at 110° C. for 3 hr while changing the reaction solution to orange color. After cooling the reaction mixture, 2-(4-formyl-phenyl)pyridine (10 g, 0.0545 mol) was added and further refluxed at 110° C. for 12 hr. The reaction mixture was poured in 300 ml of water in beaker and extracted then with ether (3×150 ml). The ether layer was then dried over magnesium sulfate (10 g) by stirring for 30 min. The dried ether layer was evaporated in vacuo to dryness and purified further by column chromatography on silica gel with eluting hexane/ethylacetate (1/10) to yield 2-(4-vinyl-phenyl)pyridine (85%).

reactant | sodium hydride | 0.14 mol, 3.36 g | [H-].[Na+]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-(4-formyl-phenyl)pyridine | 0.0545 mol, 10 g | C(=O)C1=CC=C(C=C1)C1=NC=CC=C1 | C12H9NO
catalyst | Methyltriphenylphophonium bromide | 0.07 mol, 25 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 300 ml | O | H2O
product | 2-(4-vinyl-phenyl)pyridine | 85% | C(=C)C1=CC=C(C=C1)C1=NC=CC=C1 | C13H11N
